US07790709B2
Preparation of 7-Bromo-4-[3-(4-methyl-piperazin-1-yl)-propyl]-1,3,4,5-tetrahydro-pyrido[2,3-e][1,4]diazepin-2-one
A solution of {(2-amino-5-bromo-pyridin-3-ylmethyl)-[3-(4-methyl-piperazin-1-yl)propyl]amino}acetic acid ethyl ester (0.50 g, 1.17 mmol) in DMSO (10 mL) was treated with NaH (60% dispersion in mineral oil, 47 mg, 1.17 mmol). After stirring at room temperature for 3 d, the mixture was diluted with H2O (30 mL) and then extracted with EtOAc (4×50 mL). The combined organic layers were dried over Na2SO4, filtered and the solvent was removed in vacuo. Purification by flash column chromatography (silica gel, CH2Cl2, MeOH, 92:8 to 87:13) gave the title compound (0.23 g, 51%) as a white solid: MS (ESI) m/e 382 (M+H)+.

reactant | {(2-amino-5-bromo-pyridin-3-ylmethyl)-[3-(4-methyl-piperazin-1-yl)propyl]amino}acetic acid ethyl ester | 1.17 mmol, 0.50 g | C(C)OC(CN(CCCN1CCN(CC1)C)CC=1C(=NC=C(C1)Br)N)=O | C18H30BrN5O2
reactant | NaH | 1.17 mmol, 47 mg | [H-].[Na+]
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | H2O | 30 mL | O | H2O
product | 7-Bromo-4-[3-(4-methyl-piperazin-1-yl)-propyl]-1,3,4,5-tetrahydro-pyrido[2,3-e][1,4]diazepin-2-one | 0.23 g, 51% | BrC1=CC2=C(NC(CN(C2)CCCN2CCN(CC2)C)=O)N=C1 | C16H24BrN5O
